US04672067
N-[3-(Cyanomethyl)-1H-indol-5-yl]formamide
A solution of 5-amino-1H-indole-3-acetonitrile (0.5 g) in methyl formate (20 ml) was stirred at room temperature for 24 h. The resulting solid precipitate was filtered off, washed with ether (2×20 ml) and dried in vacuo to give the title compound (0.41 g) as a white microcrystalline solid m.p. 196°-200° (softens 194°).

reactant | 5-amino-1H-indole-3-acetonitrile | 0.5 g | NC=1C=C2C(=CNC2=CC1)CC#N | C10H9N3
reactant | methyl formate | 20 ml | C(=O)OC | C2H4O2
product | N-[3-(Cyanomethyl)-1H-indol-5-yl]formamide | 0.41 g | C(#N)CC1=CNC2=CC=C(C=C12)NC=O | C11H9N3O
